US05207947
(2) Synthesis of 2-n-decyloxy-6-hydroxynaphthalene
A solution of decylmonobromide (1.5 g), 2,6-dihydroxynaphthalene (1 g) and anhydrous potassium carbonate (0.8 g) in dimethylformamide (50 ml) was stirred at 130° C. for four hours. The solution was poured in water and was made neutral with dilute aqueous hydrochloric acid solution. To the solution was added diethyl ether in order to effect extraction and the extract was distilled to remove the solvent. The residue was washed with hexane and recrystallized from water/ethanol (1/9) to obtain the titled compound (about 1 g).

reactant | decylmonobromide | 1.5 g | C(CCCCCCCCC)Br | C10H21Br
reactant | 2,6-dihydroxynaphthalene | 1 g | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-n-decyloxy-6-hydroxynaphthalene | about 1 g | C(CCCCCCCCC)OC1=CC2=CC=C(C=C2C=C1)O | C20H28O2
